US08476294B2
Stage 91.1.2. (5-Bromo-pyridin-3-yl)-diethyl-amine
A solution of 3-amino-5-bromopyridine (Aldrich, Buchs, Switzerland, 400 mg, 2.31 mmol), acetic acid (0.4 ml, 6.99 mmol) and acetaldehyde (Fluka, Buchs, Switzerland, 153 mg, 3.47 mmol) in dichloromethane was stirred for 1.5 h at rt then was added sodium triacetoxyborohydride (980 mg, 4.62 mmol). The reaction mixture was stirred 17.5 h at rt then were added at 1.5 h interval acetaldehyde (153 mg, 3.47 mmol) and sodium tracetoxyborohydride (490 mg, 2.31 mmol). The RM was stirred 7 h at rt then were added at 1.5 h interval acetaldehyde (77 mg, 1.75 mmol) and sodium tracetoxyborohydride (490 mg, 2.31 mmol). After 15 h stirring at rt, the reaction mixture was diluted with dichloromethane and quenched with saturated aqueous NaHCO3. The aqueous layer was extracted with dichloromethane and the combined organic layers were dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography (DCM/iPrOH 1% to 3.5%) to give the title compound as a yellowish oil. (HPLC: tR 2.31 min (Method A); M+H=229, 231 MS-ES)

reactant | 3-amino-5-bromopyridine | 2.31 mmol, 400 mg | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | acetic acid | 6.99 mmol, 0.4 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 3.47 mmol, 153 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 4.62 mmol, 980 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 3.47 mmol, 153 mg | C(C)=O | C2H4O
reactant | sodium | [Na] | Na
reactant | acetaldehyde | 1.75 mmol, 77 mg | C(C)=O | C2H4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-Bromo-pyridin-3-yl)-diethyl-amine | BrC=1C=C(C=NC1)N(CC)CC | C9H13BrN2
